US06372770B1
(a) 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-butynyl)-benzoxazole
15.98 g (46.6 mmol) of 7-bromo-5-chloro-2-(2-chlorophenyl)-benzoxazole and 5 5.48 ml (69.9 mmol) of (±)-3-butyn-2-ol were heated for 6 h at 90-5° C. in 47 ml of toluene with 47 ml of triethylamine, 163.5 mg (233 μmol) of bis-triphenylphosphine-palladium(II)-dichloride and 8.9 mg (46.6 23 μmol) of copper(I) iodide. The reaction was filtered and the solid washed with toluene. The filtrate was evaporated in vacuo to dryness, the residue taken up in 150 ml of dichloromethane, extracted twice with 50 ml of 1 N HCl, dried with sodium sulfate, and filtered through 120 g of silica gel in a column. The title compound (11.11 g) was recovered as an off-white solid. A recrystallized sample from di-isopropyl ether had mp 129-31° C.

reactant | 7-bromo-5-chloro-2-(2-chlorophenyl)-benzoxazole | 46.6 mmol, 15.98 g | BrC1=CC(=CC=2N=C(OC21)C2=C(C=CC=C2)Cl)Cl | C13H6BrCl2NO
reactant | (±)-3-butyn-2-ol | CC(C#C)O | C4H6O
reactant | triethylamine | 47 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 47 ml | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 23 μmol, 8.9 mg | [Cu]I
product | 5-Chloro-2-(2-chlorophenyl)-7-(3-hydroxy-1-butynyl)-benzoxazole | ClC=1C=C(C2=C(N=C(O2)C2=C(C=CC=C2)Cl)C1)C#CC(C)O | C17H11Cl2NO2
